US09227918B2
To a solution of 3.15 g (14.1 mmol) of dimethyl 5-(hydroxymethyl)isophthalate (prepared as described in Dimick et al., J. Am. Chem. Soc. (1999) 121, No. 44, 10286-10296) in 60 mL of DCM was added 7.34 g (84.4 mmol) of MnO2. The mixture was stirred at reflux for about 16 h and an additional 3.5 g of MnO2 was added. Refluxing was continued for another 6 h and the mixture was cooled, filtered through celite and evaporated to give dimethyl 5-formylisophthalate as a white solid which was used subsequently without purification.

reactant | dimethyl 5-(hydroxymethyl)isophthalate | 14.1 mmol, 3.15 g | OCC=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C11H12O5
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 84.4 mmol, 7.34 g | O=[Mn]=O
catalyst | MnO2 | 3.5 g | O=[Mn]=O
product | dimethyl 5-formylisophthalate | C(=O)C=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C11H10O5
